US08609150B2
4 ml of tetrahydrofuran and 0.62 ml (4.4 mmol) of triethylamine were added to 2.2 ml (4.4 mmol) of isopropylmagnesium chloride (2.0 mol/l tetrahydrofuran solution), the mixture was cooled to 0° C., and a solution having 1.0 g (4.2 mmol) of 3-bromo-5-chloro-2-methoxy-4-methylpyridine dissolved in 5 ml of tetrahydrofuran was dropwise added, followed by stirring for 3 hours to prepare 5-chloro-2-methoxy-4-methyl-3-pyridylmagnesium chloride. A solution having 0.89 g (4.2 mmol) of 2,3,4-trimethoxy-6-methylbenzaldehyde dissolved in 5 ml of tetrahydrofuran was dropwise added to the reaction solution, followed by stirring for 1 hour, and then the temperature was increased to room temperature, followed by stirring further for 1 hour. Water was added to the reaction solution to terminate the reaction, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate and subjected to filtration, and the solvent was distilled off under reduced pressure. The crude product was purified by silica gel column chromatography to obtain 1.1 g (yield: 70%) of (2,3,4-trimethoxy-6-methylphenyl)(5-chloro-2-methoxy-4-methyl-3-pyridyl)methanol (pale yellow oily substance).

reactant | triethylamine | 4.4 mmol, 0.62 ml | C(C)N(CC)CC | C6H15N
reactant | isopropylmagnesium chloride | 4.4 mmol, 2.0 mol/l, 2.2 ml | C(C)(C)[Mg]Cl
reactant | 3-bromo-5-chloro-2-methoxy-4-methylpyridine | 4.2 mmol, 1.0 g | BrC=1C(=NC=C(C1C)Cl)OC | C7H7BrClNO
reactant | 5-chloro-2-methoxy-4-methyl-3-pyridylmagnesium chloride | ClC=1C(=C(C(=NC1)OC)[Mg]Cl)C
reactant | 2,3,4-trimethoxy-6-methylbenzaldehyde | 4.2 mmol, 0.89 g | COC1=C(C=O)C(=CC(=C1OC)OC)C | C11H14O4
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | (2,3,4-trimethoxy-6-methylphenyl)(5-chloro-2-methoxy-4-methyl-3-pyridyl)methanol | 1.1 g, yield: 70% | COC1=C(C(=CC(=C1OC)OC)C)C(O)C=1C(=NC=C(C1C)Cl)OC | C18H22ClNO5
